US06881844B2
A solution of 2,2,2-trifluoro-1-(6-methyl-1H-indol-3-yl)-ethanone (1.5 g, 6.60 mmol) in N,N-dimethylformamide (15 mL) at 25° C. was treated with potassium carbonate (2.28 g, 16.51 mmol). The resulting mixture was stirred at 25° C. for 15 min and then treated with 2-iodopropane (0.99 mL, 9.90 mmol). The reaction was heated at 65° C. for 3 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (100 mL) and ethyl acetate (100 mL). The organic layer was then washed with a 1N aqueous hydrochloric acid solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 4/1 hexanes/ethyl acetate) afforded 2,2,2-trifluoro-1-(1-isopropyl-6-methyl-1H-indol-3-yl)-ethanone (1.61 g, 90.6%) as a pink solid: mp 65-68° C.; EI-HRMS m/e calcd for C14H14F3NO (M+) 269.1027, found 269.1037.

reactant | 2,2,2-trifluoro-1-(6-methyl-1H-indol-3-yl)-ethanone | 6.60 mmol, 1.5 g | FC(C(=O)C1=CNC2=CC(=CC=C12)C)(F)F | C11H8F3NO
reactant | potassium carbonate | 16.51 mmol, 2.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 9.90 mmol, 0.99 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-1-(1-isopropyl-6-methyl-1H-indol-3-yl)-ethanone | 1.61 g, 90.6% | FC(C(=O)C1=CN(C2=CC(=CC=C12)C)C(C)C)(F)F | C14H14F3NO
